data/mechanism_extracts/AdvSynthCatal/10.1002_adsc.202300949_sup_1.json
{"doi": "10.1002_adsc.202300949_sup_1", "journal": "AdvSynthCatal", "is_review": false, "rxn_class_summary": "Electrochemical selenocyclization of N-allyl-N'-tosylureas with PhSeSePh to form 2-amino-oxazoline products bearing a CH2SePh group", "mechanism_family": ["radical_anodic", "radical_polar_crossover"], "electrochemical_role": "Anodic oxidation of PhSeSePh generates electrophilic PhSe+ (or PhSe radical/PhSe+ equivalent) that adds to the allyl alkene, triggering intramolecular cyclization by the urea oxygen", "key_intermediates": [{"name": "PhSe electrophile (from anodic oxidation of diphenyl diselenide)", "smiles": "[Se+](c1ccccc1)", "role": "reactive"}, {"name": "seleniranium ion on allyl alkene", "smiles": null, "role": "transient"}, {"name": "oxazoline product 3a (5-(phenylselanylmethyl)-2-(tosylimino)oxazolidine)", "smiles": null, "role": "reactive"}], "electron_flow": "PhSeSePh is oxidized at the carbon anode to a PhSe+ electrophile (with reduction of protons at the Pt cathode); PhSe+ activates the allyl C=C as a seleniranium ion, which is opened by intramolecular attack of the urea carbonyl oxygen to give the 2-iminooxazoline 3a.", "rate_determining_step": null, "probe_reagents": [{"name": "TEMPO", "smiles": "CC1(C)CCCC(C)(C)N1[O]", "purpose": "radical_trap", "observation": "Reaction proceeded under standard conditions with TEMPO (1 equiv.) giving 3a in 80% yield, indicating no free C-radical intermediate"}, {"name": "BHT", "smiles": "CC(C)(C)c1cc(C)cc(C(C)(C)C)c1O", "purpose": "radical_trap", "observation": "3a obtained in 79% (1 equiv. BHT) and 81% (0.5 equiv. BHT), again consistent with a non-radical (ionic) pathway"}], "evidence_types_used": ["intermediate_trap_TEMPO", "intermediate_trap_BHT"], "evidence_strength": "medium", "notes": "Radical-trap experiments (TEMPO, BHT) do not inhibit the reaction, arguing against a free-radical chain and favoring an ionic seleniranium/cation-initiated cyclization following anodic generation of PhSe+. Optimal conditions: C(+)|Pt(-) undivided cell, n-Bu4NBF4, MeCN/H2O (7:1 mL), 10 mA, r.t., 2 h."}
